US07947691B2
1-Benzyl-7-diethylamino-3-hydroxy-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 7-Diethylamino-3-(2,4-dimethoxy-benzyloxy)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione was alkylated with benzyl bromide and subsequently deprotected to provide the title compound as a white solid. 1H NMR (d6-DMSO, 300 MHz) 1.09 (t, J=7 Hz, 6H); 3.34-3.47 (m, 4H); 5.48 (s, 2H); 6.69-6.83 (m, 2H); 7.24-7.37 (m, 5H); 7.48 (d, J=9 Hz, 1H); 10.75 (br s, 1H); Ret. time=2.97 min., m/z=380.0.

reactant | 7-Diethylamino-3-(2,4-dimethoxy-benzyloxy)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | C(C)N(C1=CC2=C(C=3NC(N(C(C3O2)=O)OCC2=C(C=C(C=C2)OC)OC)=O)C=C1)CC | C23H25N3O6
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-Benzyl-7-diethylamino-3-hydroxy-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | C(C1=CC=CC=C1)N1C(N(C(C2=C1C1=C(O2)C=C(C=C1)N(CC)CC)=O)O)=O | C21H21N3O4
